US08629271B2
b) (2-Phenylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone
Trifluoroacetic acid (3.8 mL) was added to a solution of tert-butyl 4-(2-phenylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate (example 112, step a) (0.85 mg) in DCM (15.2 mL). The resulting mixture was stirred at RT for 1 h. Toluene (30 mL) was added and the mixture was evaporated in vacuo. The yellow residue was dissolved in MeOH and applied to a SCX cartridge pre-wetted with MeOH. The cartridge was washed with MeOH and eluted with 2M ammonia in MeOH. The eluent was evaporated in vacuo to give the subtitled compound as a brown oil. Yield 0.629 g.

reactant | Trifluoroacetic acid | 3.8 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-phenylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C23H29N3O4S
reactant | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 15.2 mL | C(Cl)Cl | CH2Cl2
product | (2-Phenylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2 | C18H21N3O2S
